US04496390
5-Amino-1-(2,3,4-trichlorophenyl)pyrazol-4-yl carboxylic acid (54 g) and thionyl chloride (75 ml) were heated together under reflux for one hour. The reaction mixture was then evaporated to dryness and residual thionyl chloride was removed by evaporation in the presence of toluene (3×200 ml) to give 5-amino-1-(2,3,4-trichlorophenyl)pyrazol-4-yl carbonyl chloride, in the form of a dark coloured oil which was used in the preparation described in Example 11 without further purification.

reactant | 5-Amino-1-(2,3,4-trichlorophenyl)pyrazol-4-yl carboxylic acid | 54 g | NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C(=O)O | C10H6Cl3N3O2
reactant | thionyl chloride | 75 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-amino-1-(2,3,4-trichlorophenyl)pyrazol-4-yl carbonyl chloride | NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C(=O)Cl | C10H5Cl4N3O
